US08648066B2
(2S)-3-[(2-amino-5-{4-[7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}pyridin-3-yl)sulfonyl]-2-methylpropan-1-ol.
Prepared according to the method of example 5 by using (2S)-3-[(2-amino-5-bromopyridin-3-yl)sulfonyl]-2-methylpropan-1-ol (reagent preparation 41) and {4-[7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, Methanol-d4): 8.42 (s, 1H), 8.34 (br, 1H), 8.07 (br, 1H), 7.89 (d, 1H), 7.44 (s, 1H), 7.35 (d, 1H), 7.08 (m, 2H), 6.94 (d, 1H), 4.96 (s, 2H), 4.34 (m, 2H), 4.14 (m, 2H), 3.84 (s, 3H), 3.41 (m, 2H), 3.31 (dd, 1H), 2.98 (dd, 1H), 2.12 (m, 1H), 0.99 (d, 3H); MS (EI) for C27H20N5O5S: 536 (MH+).

reactant | (2S)-3-[(2-amino-5-bromopyridin-3-yl)sulfonyl]-2-methylpropan-1-ol | NC1=NC=C(C=C1S(=O)(=O)C[C@H](CO)C)Br | C9H13BrN2O3S
reactant | {4-[7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}boronic acid | COC1=CC=C2C(=NC=NC2=C1)N1CCOC2=C(C1)C=C(C=C2)B(O)O | C18H18BN3O4
product | (2S)-3-[(2-amino-5-{4-[7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}pyridin-3-yl)sulfonyl]-2-methylpropan-1-ol | NC1=NC=C(C=C1S(=O)(=O)C[C@H](CO)C)C=1C=CC2=C(CN(CCO2)C2=NC=NC3=CC(=CC=C23)OC)C1 | C27H29N5O5S
